### ISSUE TITLE
Regression of step* requiring manual split

### ISSUE THREAD

**Issue by ia0** [AeneasVerif/aeneas#1217]
This is a minimization of [jxl-proofs](https://github.com/AeneasVerif/jxl-proofs/pull/1/changes#diff-7b16768ef8960ffc6d71d3a02bedfdc7759864c42279abb644a90927d8a3b747R231) and line 176 in that same file.

Create a basic Aeneas project (Cargo and lake library projects in the same directory).

The Rust source is:

```rust
pub fn foo(c: bool, x: u32) -> u32 {
    let y = if c { x + 1 } else { x + 2 };
    y + 3
}
```

The Lean proofs are:

```lean
import Aeneas
import Foo

open Aeneas Aeneas.Std Result Error

namespace foo

theorem foo_spec (c : Bool) (x : U32) (h : x.val + 5 <= U32.max) :
  foo c x ⦃ _ => True ⦄ := by
  unfold foo
  step* -- must now be replaced with: split <;> step*

end foo
```

The execution commands are:

```shell
charon cargo --preset=aeneas
aeneas foo.llbc -backend lean
lake build
```

### New behavior

```
error: New/Proof.lean:9:27: unsolved goals
c : Bool
x : U32
h : ↑x + 5 ≤ U32.max
⊢ (do
      let y ← if c = true then x + 1#u32 else x + 2#u32
      y + 3#u32) ⦃
    x✝ => True ⦄
```

Replacing `step*` with `split <;> step*` closes the goal. Note that `step*` alone does nothing in this example. In general, `step*` may do some amount of steps before giving up. In that case the solution is to use `iterate N step; split <;> step*` with an appropriate `N`.

Aeneas version: 94fc4cc
Charon version: 5a501733 (0.1.223)

### Old behavior

No error.

Aeneas version: 38d10a2
Charon version: a206b150 (0.1.183)
